US06468998B1
1-Azabicyclo[2.2.2]octane-4-carbonyl chloride and (S)-3-amino-1-(2-phenylethyl)pyrrolidine were reacted under the same conditions as in Example 53 to give (S)-N-(1-(2-phenylethyl)pyrrolidin-3-yl)-1-azabicyclo[2.2.2]octane-4-carboxamide.

reactant | 1-Azabicyclo[2.2.2]octane-4-carbonyl chloride | N12CCC(CC1)(CC2)C(=O)Cl | C8H12ClNO
reactant | (S)-3-amino-1-(2-phenylethyl)pyrrolidine | N[C@@H]1CN(CC1)CCC1=CC=CC=C1 | C12H18N2
product | (S)-N-(1-(2-phenylethyl)pyrrolidin-3-yl)-1-azabicyclo[2.2.2]octane-4-carboxamide | C1(=CC=CC=C1)CCN1C[C@H](CC1)NC(=O)C12CCN(CC1)CC2 | C20H29N3O
